US05863947
A stirred solution of 4-cyano-2-hydroxybenzaldehyde (10.15 g, 69 mmol), 4-dimethylaminopyridine (1.69 g, 14 mmol) and 2,6-lutidine (9.3 g, 86 mmol) in dichloromethane (120 ml) was cooled under an atmosphere of nitrogen to -70° C. and trifluoromethylsulphonic anhydride (24.4 g, 86 mmol) added dropwise over a period of 2 minutes. The resulting mixture was allowed to warm to -40° C. and after 1.5 hours washed with water (100 ml), aqueous hydrochloric acid (0.5M, 100 ml), water (2×100 ml) and a saturated solution of sodium chloride. The organic phase was dried, filtered and evaporated to a solid. The solid was suspended in dichloromethane and purified by short path chromatography on flash silica, eluting with dichloromethane-hexane (1:1) to give 4-cyano-2-trifluoromethylsulphonylbenzaldehyde as a yellow oil which solidified on standing.

reactant | 4-cyano-2-hydroxybenzaldehyde | 69 mmol, 10.15 g | C(#N)C1=CC(=C(C=O)C=C1)O | C8H5NO2
reactant | 2,6-lutidine | 86 mmol, 9.3 g | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethylsulphonic anhydride | 86 mmol, 24.4 g | FC(F)(F)S(=O)(=O)OS(=O)(=O)C(F)(F)F | C2F6O5S2
catalyst | 4-dimethylaminopyridine | 14 mmol, 1.69 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 120 ml | ClCCl | CH2Cl2
product | 4-cyano-2-trifluoromethylsulphonylbenzaldehyde | C(#N)C1=CC(=C(C=O)C=C1)S(=O)(=O)C(F)(F)F | C9H4F3NO3S
